US05102889
5-Methyl-2-(4-piperidinyl)-2,3,4,5-tetrahydro-1H-pyrido-[4,3-b]indol-1-one dihydrochloride monohydrate
2-[1-(α-Chloroethylcarbamoyl)-4-piperidinyl]-5-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one (0.300 g) was dissolved in anhydrous methanol (6 ml), and the solution was heated under reflux for 4 hrs. The reaction mixture was evaporated, and the residue was recrystallized from absolute ethanol to afford 0.10 g (50%) of product.

reactant | 2-[1-(α-Chloroethylcarbamoyl)-4-piperidinyl]-5-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one | 0.300 g | ClC(C)NC(=O)N1CCC(CC1)N1C(C2=C(N(C=3C=CC=CC23)C)CC1)=O | C20H25ClN4O2
solvent | methanol | 6 ml | CO | CH4O
product | 5-Methyl-2-(4-piperidinyl)-2,3,4,5-tetrahydro-1H-pyrido-[4,3-b]indol-1-one dihydrochloride monohydrate | 0.10 g, 50% | O.Cl.Cl.CN1C2=C(C=3C=CC=CC13)C(N(CC2)C2CCNCC2)=O | InChI=1S/C17H21N3O.2ClH.H2O/c1-19-14-5-3-2-4-13(14)16-15(19)8-11-20(17(16)21)12-6-9-18-10-7-12;;;/h2-5,12,18H,6-11H2,1H3;2*1H;1H2
